US04935511
Sodium (3.8 g, 0.17 m) is dissolved in 150 ml methanol and to this is added methyl 3-nitro-4-acetylamino-5-chlorosalicylate (5 g, 17 mmol) under nitrogen. This mixture is then heated to reflux overnight. The mixture is then cooled to 20° C. and poured into a rapidly stirring mixture of ice and 10% HCl (650 ml). The ppt. which forms is filtered, washed with H2O and dried to obtain methyl 3-nitro-4-amino-5-chlorosalicylate as a yellow powder which is used directly in the next step.

reactant | Sodium | 3.8 g | [Na] | Na
reactant | methyl 3-nitro-4-acetylamino-5-chlorosalicylate | 17 mmol, 5 g | [N+](=O)([O-])C1=C(C(C(=O)OC)=CC(=C1NC(C)=O)Cl)O | C10H9ClN2O6
reactant | HCl | 650 ml | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
product | methyl 3-nitro-4-amino-5-chlorosalicylate | [N+](=O)([O-])C1=C(C(C(=O)OC)=CC(=C1N)Cl)O | C8H7ClN2O5
